US07214802B2
N-(5-tert-Butyl-2-methanesulfinyl-phenyl)-3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide
Example 6 was prepared by coupling 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid with 5-tert-butyl-2-methanesulfinyl-phenylamine (see U.S. provisional application 60/526,569) in the same manner as Example 1. ESI MS m/z 543 [C30H34N6O2S+H]+.

reactant | 3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-1,2,3-triazol-1-yl}-4-methyl-benzoic acid | C1(CC1)CNC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C19H19N5O2
reactant | 5-tert-butyl-2-methanesulfinyl-phenylamine | C(C)(C)(C)C=1C=CC(=C(C1)N)S(=O)C | C11H17NOS
product | N-(5-tert-Butyl-2-methanesulfinyl-phenyl)-3-{4-[6-(cyclopropylmethyl-amino)-pyridin-3-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide | C(C)(C)(C)C=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC(=CC1)NCC1CC1)=O)S(=O)C | C30H34N6O2S
